US06423849B1
Preparation of 5-(2-methoxy-4-nitrophenyl)-4-carbomethoxyoxazole
The procedures of Example 1-(1) were followed, except for replacing the ethyl isocyanoacetate with 9.9 g (0.1 mol) of methyl isocyanoacetate, to obtain 15.4 g (0.055 mol 61.5% based on the 2-methoxy-4-nitrobenzoic acid) of the title compound.

reactant | methyl isocyanoacetate | 0.1 mol, 9.9 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | 2-methoxy-4-nitrobenzoic acid | COC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
product | 5-(2-methoxy-4-nitrophenyl)-4-carbomethoxyoxazole | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(N=CO1)C(=O)OC | C12H10N2O6
